US05958942
ii) Synthesis of 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride
To a suspension of 816 mg (2.02 mmol) of 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido) butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 10 ml of methanol was added 0.34 ml of conc. HCl, and the solvent was distilled off. To the residue was added acetone, and the resulting solid was washed with acetone, dried to give 790 mg of the desired compound (88.8%, colorless solid), m.p.181.0-182.0° C.

reactant | 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido) butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 2.02 mmol, 816 mg | CC=1N=C2C=CC=C3C(N(C(C1N23)=O)CCCCNS(=O)(=O)C(F)(F)F)=O | C15H15F3N4O4S
reactant | HCl | 0.34 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione-hydrochloride | 790 mg, 88.8% | Cl.CC=1N=C2C=CC=C3C(N(C(C1N23)=O)CCCCNS(=O)(=O)C(F)(F)F)=O | InChI=1S/C15H15F3N4O4S.ClH/c1-9-12-14(24)21(8-3-2-7-19-27(25,26)15(16,17)18)13(23)10-5-4-6-11(20-9)22(10)12;/h4-6,19H,2-3,7-8H2,1H3;1H
